US07344702B2
Synthesis of 2-tert-butyl-4-chloro-5-[4-(3-hydroxybutyl)benzyloxy]-2H-pyridazin-3-one
To a solution of the product of Example 7A (505 mg, 2.447 mmol) in THF (19 mL) at 0° C. was added a 1M solution (in THF) of lithium aluminum hydride (12.2 mL, 12.237 mmol) dropwise. After completion of addition the ice bath was removed and the reaction was stirred at room temperature for 1 hour under nitrogen atmosphere. Then, in succession, was added water (183 μL), 15% NaOH solution (183 μL), and water (548 μL). The reaction stirred for an additional 15 minutes before it was filtered and washed with THF. The filtrate was then concentrated under reduced pressure to obtain 4-(4-hydroxymethyl-phenyl)butan-2-ol as a brown oil (314 mg, 71% yield). Then to a solution of 2-tert-butyl-4-chloro-5-hydroxy-2H-pyridazin-3-one (234 mg, 1.155 mmol) in THF (45 mL) was added 4-(4-hydroxymethylphenyl)butan-2-ol (312 mg, 1.732 mmol), triphenylphosphine (454 mg, 1.732 mmol), and then diisopropyl azodicarboxylate (DIAD, 335 μL, 1.732 mmol). The reaction was stirred at room temperature overnight under nitrogen atmosphere. Thin layer chromatography (100% ethyl acetate) indicated consumption of the pyridazinone starting material and the reaction was concentrated. The crude material was purified by flash column chromatography (4:1 hexane:ethyl acetate to 100% ethyl acetate) to obtain a clear oil (200 mg, 48% yield). 1H NMR (600 MHz, CDCl3): δ 7.73 (s, 1H), 7.32 (d, 2H, J=8.0), 7.24 (d, 2H, J=8.0), 5.30 (s, 1H), 5.27 (s, 2H), 3.83 (m, 1H), 2.80-2.76 (m, 1H), 2.71-2.66 (m, 1H), 1.63 (s, 9H), 1.23 (d, 3H, J=6.2); 13C (CDCl3 159.3, 153.9, 143.2, 132.5, 129.2, 127.6, 125.4, 150 MHz): δ HRMS calcd for C118.5, 73.4, 67.6, 66.6, 40.9, 32.0, 28.1, 23.9.19H25ClN2O3: 365.162647, found 365.1624.

reactant | 2-tert-butyl-4-chloro-5-hydroxy-2H-pyridazin-3-one | 1.155 mmol, 234 mg | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 4-(4-hydroxymethylphenyl)butan-2-ol | 1.732 mmol, 312 mg | OCC1=CC=C(C=C1)CCC(C)O | C11H16O2
reactant | triphenylphosphine | 1.732 mmol, 454 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.732 mmol, 335 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-4-chloro-5-[4-(3-hydroxybutyl)benzyloxy]-2H-pyridazin-3-one | 200 mg, 48% yield | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)CCC(C)O | C19H25ClN2O3
